US08431695B2
Preparation of 4-{4-amino-5-[2-(cyclohexylmethyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}-N,N-dimethylpiperidine-1-carboxamide
In a manner similar to the procedure described for Example 369 and using 5-[2-(cyclohexylmethyl)-2H-indazol-6-yl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and substituting dimethylcarbamyl chloride for 2-chloro-N,N-dimethylacetamide as starting materials, 21 mg (31%) of the desired product was isolated. 1H NMR (400 MHz, CD3OD) δ 8.25 (s, 1 H) 7.79-7.83 (m, 2 H) 7.65 (s, 1 H) 7.21 (d, 1 H) 6.60 (s, 1 H) 4.28 (d, 2 H) 3.83 (d, 2 H) 3.36-3.41 (m, 1 H) 2.97 (td, 2 H) 2.87 (s, 6 H) 1.99-2.16 (m, 3 H) 1.58-1.85 (m, 7 H) 1.04-1.27 (m, 5 H). LC-MS [M+H]+=501.6, RT=3.04 min.

reactant | 5-[2-(cyclohexylmethyl)-2H-indazol-6-yl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | C1(CCCCC1)CN1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C25H31N7
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 4-{4-amino-5-[2-(cyclohexylmethyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}-N,N-dimethylpiperidine-1-carboxamide | 21 mg, 31% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(=O)N(C)C)C=2C=CC1=CN(N=C1C2)CC2CCCCC2 | C28H36N8O
